*
******************************************
*
*BAS21
*
*NXP Semiconductors
*
*General purpose diode
*
*
*
*
* 
*
*
*
*
*
*
*VRRM = 250V
*IFRM = 625mA @ tp =  
*trr  = 50ns
*
*Package: SOT23
*
*Package Pin 1: Anode
*Package Pin 2: not connected
*Package Pin 3: Cathode  
*
*
*
*Simulator: SPICE2
*
******************************************
*
.SUBCKT BAS21 1 2 
*
*The resistor R1 does not reflect 
*a physical device. Instead it
*improves modeling in the reverse 
*mode of operation.
*
R1 1 2 1.622E+10 
D1 1 2 BAS21 
*
.MODEL BAS21 D
+ IS = 3.648E-9 
+ N = 1.909 
+ BV = 260 
+ IBV = 2E-7 
+ RS = 0.7535 
+ CJO = 6.99E-13 
+ VJ = 0.2028 
+ M = 0.1151 
+ FC = 0.5 
+ TT = 3.462E-8 
.ENDS
*